US07488848B2
2(R)-Amino-3-tritylsulfanylpropionic acid (78 g, 214.6mmol) was dissolved in CH2Cl2 and DIPEA (112 mL, 643.8 mmol) was added and the reaction mixture was stirred for 10 min at room temperature. Trifluoromethanesulfonic acid 2,2,2-trifluoro-1(R)-(4-fluorophenyl)ethyl ester (70 g, 214.6 mmol) in CH2Cl2 was added and the reaction mixture was stirred overnight at room temperature. Solvent was removed under the reduced pressure and the residue was dissolved in Et2O and washed with IN HCl, brine and dried over MgSO4. Solvent was removed give 2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]-3-tritylsulfanylpropionic acid (90 g) as a yellow solid.

reactant | 2(R)-Amino-3-tritylsulfanylpropionic acid | 214.6mmol, 78 g | N[C@H](C(=O)O)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21NO2S
reactant | DIPEA | 643.8 mmol, 112 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Trifluoromethanesulfonic acid 2,2,2-trifluoro-1(R)-(4-fluorophenyl)ethyl ester | 214.6 mmol, 70 g | FC([C@@H](C1=CC=C(C=C1)F)OS(=O)(=O)C(F)(F)F)(F)F | C9H5F7O3S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]-3-tritylsulfanylpropionic acid | 90 g | FC([C@H](C1=CC=C(C=C1)F)N[C@H](C(=O)O)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C30H25F4NO2S
